US04006245
A mixture of 7.31 parts of 6-[2-hydroxy-3-(2-propylphenoxy)propoxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid and 1.54 parts of sodium bicarbonate in 100 parts of water, was heated to effect solution. The solution was filtered and freeze dried to yield 7.5 parts of sodium 6-[2-hydroxy-3-(2-propylphenoxy)propoxy]-4-oxo-4H-1-benzopyran-2-carboxylate, hemihydrate.

reactant | 6-[2-hydroxy-3-(2-propylphenoxy)propoxy]-4-oxo-4H-1-benzopyran-2-carboxylic acid | OC(COC=1C=CC2=C(C(C=C(O2)C(=O)O)=O)C1)COC1=C(C=CC=C1)CCC | C22H22O7
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | sodium 6-[2-hydroxy-3-(2-propylphenoxy)propoxy]-4-oxo-4H-1-benzopyran-2-carboxylate, hemihydrate | O.OC(COC=1C=CC2=C(C(C=C(O2)C(=O)[O-])=O)C1)COC1=C(C=CC=C1)CCC.[Na+].[Na+].OC(COC=1C=CC2=C(C(C=C(O2)C(=O)[O-])=O)C1)COC1=C(C=CC=C1)CCC | InChI=1S/2C22H22O7.2Na.H2O/c2*1-2-5-14-6-3-4-7-19(14)28-13-15(23)12-27-16-8-9-20-17(10-16)18(24)11-21(29-20)22(25)26;;;/h2*3-4,6-11,15,23H,2,5,12-13H2,1H3,(H,25,26);;;1H2/q;;2*+1;/p-2
